US07199120B2
To a solution of 4-[7-chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (150 mg, 0.38 mmol) in cyclopentylamine (10 mL) was added racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (76 mg, 0.12 mmol), cesium carbonate (247 mg, 0.76 mmol) and palladium (II) acetate (17 mg, 0.076 mmol). The resulting mixture was stirred at 100° C. for 3 hours. Water was added and the mixture was extracted with ethyl acetate. The ethyl acetate phase was washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting residue was purified by flash chromatography (3:7 ethyl acetate:hexane) to give 147 mg (87%) of N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridin-7-amine as a yellow solid. 1H-NMR (CDCl3): δ 8.07 (d, 1H), 7.85 (d, 1H), 7.50 (d, 1H), 7.31 (t, 1H), 6.42 (d, 1H), 6.25 (d, 1H), 6.04 (d, 1H), 6.00 (d, 1H), 5.06 (d, 1H), 4.36 (m, 1H), 3.98 (m, 1H), 2.08 (m, 4H), 2.05 (s, 3H), 1.81–1.52 (m, 12H). MS m/z 443 (M+1).

reactant | 4-[7-chloro-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 0.38 mmol, 150 mg | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C=2OC=CC2C | C21H20ClN5O
reactant | racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.12 mmol, 76 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 0.76 mmol, 247 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
reactant | cyclopentylamine | 10 mL | C1(CCCC1)N | C5H11N
catalyst | palladium (II) acetate | 0.076 mmol, 17 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(3-methyl-2-furyl)pyrazolo[1,5-a]pyridin-7-amine | 147 mg, 87% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C=2OC=CC2C | C26H30N6O
